US05317016
To a solution of (2S,4S)-2-aminomethyl-1-allyloxycarbonyl-4-mercaptopyrrolidine (2.80 g: ca. 13.14 mmole) in dichloromethane (66 ml) at -50° C., triethylamine (4.02 ml: 28.91 mmole) and trimethylchlorosilane (3.76 ml: 28.91 mmole) are added dropwise over 15 minutes. The mixture is stirred at the same temperature for 20 minutes. To the reaction mixture triethylamine (0.92 ml: 6.57 mmole) and a solution of sulfamoyl chloride (19.37 mmole) in dichloromethane (6.8 ml) are added dropwise over 20 minutes at -70° C., and the mixture is stirred for 30 minutes. To the reaction mixture triethylamine (3.84 ml: 27.59 mmole) is again added over 1 hour at -50° C. The reaction mixture is kept at the same temperature overnight and concentrated in vacuo. The residual oil is purified by silica gel chromatography (ethyl acetate) to give (2S,4S)-1-allyloxycarbonyl-2-(sulfamoylamino)methyl-4-mercaptopyrrolidine (2.64 g). Yield: 68%. White powder. NMR δ(CDCl3) ppm: 1.4 to 1.6(m, 1H), 1.83(d, J=6.2 Hz, 1H), 2.5 to 2.7(m, 1H), 3.11(dd, J=8.2 Hz, J=11.6 Hz, 1H), 3.3 to 3.4(m, 1H), 3.71(dd, J=2.9 Hz, J=15.2 Hz, 1H), 4.13(dd, J=7.3 Hz, J=11.7 Hz, 1H), 4.16(dd, J=10.3, 14.9 Hz, 1H), 4.3 to 4.6 (m, 3H), 4.7(m, 2H), 5.2 to 5.4(m, 4H), 5.8 to 6.0(m, 2H), 6.0(m, 2H). IR ν (CHCl3) cm-1 : 1684, 1158.

reactant | (2S,4S)-2-aminomethyl-1-allyloxycarbonyl-4-mercaptopyrrolidine | ca. 13.14 mmole, 2.80 g | NC[C@H]1N(C[C@H](C1)S)C(=O)OCC=C | C9H16N2O2S
reactant | triethylamine | 28.91 mmole, 4.02 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 28.91 mmole, 3.76 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 6.57 mmole, 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | 19.37 mmole | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | triethylamine | 27.59 mmole, 3.84 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 66 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.8 ml | ClCCl | CH2Cl2
product | (2S,4S)-1-allyloxycarbonyl-2-(sulfamoylamino)methyl-4-mercaptopyrrolidine | 2.64 g, Yield: 68% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CNS(N)(=O)=O | C9H17N3O4S2
